US07737145B2
A solution of N-methyl-N-[2-(4-phenoxyphenyl)ethyl]-4-piperidinamine (about 0.7 mmol) in DMF (5 mL) and diisopropylethylamine (5 mL) was stirred as methyl 4-(bromomethyl)benzoate (163 mg, 0.71 mmol) was added. The reaction was stirred for 54 hours at ambient temperature. The reaction was diluted with ethyl acetate, washed with brine, dried, and concentrated to give methyl 4-[[4-[methyl[2-(4-phenoxyphenyl)ethyl]amino]-1-piperidinyl]methyl]benzoate; 1H NMR (CDCl3) 7.76 (d, 2H), 7.37 (d, 2H), 7.28 (td, 2H), 7.14 (d, 2H), 7.06 (dt, 1H), 6.95 (dt, 2H), 6.92 (dd, 2H), 3.84 (s, 3H), 3.55 (s, 2H), 2.87 (m, 2H), 2.71 (m, 3H), 2.51 (m, 1H), 2.01 (s, 3H), 1.98 (m, 2H), 1.76 (m, 2H), 1.62 (m, 2H) ppm.

reactant | N-methyl-N-[2-(4-phenoxyphenyl)ethyl]-4-piperidinamine | about 0.7 mmol | CN(C1CCNCC1)CCC1=CC=C(C=C1)OC1=CC=CC=C1 | C20H26N2O
reactant | methyl 4-(bromomethyl)benzoate | 0.71 mmol, 163 mg | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | diisopropylethylamine | 5 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 4-[[4-[methyl[2-(4-phenoxyphenyl)ethyl]amino]-1-piperidinyl]methyl]benzoate | CN(C1CCN(CC1)CC1=CC=C(C(=O)OC)C=C1)CCC1=CC=C(C=C1)OC1=CC=CC=C1 | C29H34N2O3
